US07632851B2
2Benzo[1,2,5]oxadiazol-5-yl-5-methylamino-phenol
100 mg (0.4 mmol) of (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-methyl-amine are stirred at −10 to 0° C. in 1.3 mL of CH2Cl2, then over 5 minutes treated with 1.3 mL AlBr3 (1.0 M solution in CH2Br2, 3 eq.) and stirred another 17 h under warming to rt. Then, the mixture is poured onto brine/ethyl acetate and the pH adjusted to 6 using NaHCO3. Then the aqueous phase is extracted with ethyl acetate, the combined organic layers dried with sodium sulfate and concentrated. The crude product is column chromatographed with ethyl acetate/hexanes 1:1 to yield after evaporation of the product-containing fractions the desired product as a yellow solid.

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-methyl-amine | 0.4 mmol, 100 mg | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)NC)OC | C14H13N3O2
reactant | AlBr3 | 1.0 M, 1.3 mL, 3 eq. | [Al](Br)(Br)Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1.3 mL | C(Cl)Cl | CH2Cl2
product | 2Benzo[1,2,5]oxadiazol-5-yl-5-methylamino-phenol | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)NC)O | C13H11N3O2
